US08293768B2
Synthesis of ethyl 5-((5-(3-(4-fluorobenzyl)-2-oxoimidazolidin-1-yl)-3-methylthiophene-2-carboxamido)methyl)furan-2-carboxylate
Following the procedures as described in Example 55, making variations as required to replace 3-methyl-5-(2-oxo-3-(2-phenoxyethyl)imidazolidin-1-yl)thiophene-2-carboxylic acid with 5-(3-(4-fluorobenzyl)-2-oxoimidazolidin-1-yl)-3-methylthiophene-2-carboxylic acid to react with ethyl 5-(aminomethyl)furan-2-carboxylate hydrochloride, the title compound was obtained as a colorless solid in 59% yield: 1H NMR (300 MHz, CDCl3) δ 7.30-7.23 (m, 2H), 7.11 (d, J=3.4 Hz, 1H), 7.07-6.99 (m, 2H), 6.41 (d, J=3.4 Hz, 1H), 6.10 (br s, 2H), 4.62 (d, J=5.7 Hz, 2H), 4.43 (s, 2H), 4.36 (q, J=7.1 Hz, 2H), 3.83-3.75 (m, 2H), 3.47-3.40 (m, 2H), 2.48 (s, 3H), 1.38 (t, J=7.1 Hz, 3H); MS (ES+) m/z 508.15 (M+23).

reactant | 3-methyl-5-(2-oxo-3-(2-phenoxyethyl)imidazolidin-1-yl)thiophene-2-carboxylic acid | CC1=C(SC(=C1)N1C(N(CC1)CCOC1=CC=CC=C1)=O)C(=O)O | C17H18N2O4S
reactant | 5-(3-(4-fluorobenzyl)-2-oxoimidazolidin-1-yl)-3-methylthiophene-2-carboxylic acid | FC1=CC=C(CN2C(N(CC2)C2=CC(=C(S2)C(=O)O)C)=O)C=C1 | C16H15FN2O3S
reactant | ethyl 5-(aminomethyl)furan-2-carboxylate hydrochloride | Cl.NCC1=CC=C(O1)C(=O)OCC
product | ethyl 5-((5-(3-(4-fluorobenzyl)-2-oxoimidazolidin-1-yl)-3-methylthiophene-2-carboxamido)methyl)furan-2-carboxylate | 59% yield | FC1=CC=C(CN2C(N(CC2)C2=CC(=C(S2)C(=O)NCC2=CC=C(O2)C(=O)OCC)C)=O)C=C1 | C24H24FN3O5S
